US07629342B2
To a round bottom flask was added 3,6-dichloro-4-(4-chlorophenyl)-5-(pyridin-4-yl)pyridazine (1.5 gm, 4.464 mmol), CH3CN (5 ml), water (1 ml) and LiOH monohydrate (0.938 gm, 22.32 mmol). The reaction was heated to 80° C. and stirred at this temperature for 4 hrs. After this time, the reaction was colled to rt and concentrated under reduced pressure. The residue was diluted with water (30 ml). The pH of the aqueous solution was adjusted to 7 with 1N HCl. The resulting solution was poured into a separatory funnel and extract with EtOAc (4×20 ml). The combined organic layers were washed with saturated aqueous NaCl (30 ml). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give a white solid residue. The residue was stirred in CH2Cl2 (10 ml) for 15 min. The solution was then filter and the solid was collected to give product 6-chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-ol as white solid (0.70 gm, 48% yield). HPLC retention time (method A) 1.332 min.

reactant | 3,6-dichloro-4-(4-chlorophenyl)-5-(pyridin-4-yl)pyridazine | 4.464 mmol, 1.5 gm | ClC=1N=NC(=C(C1C1=CC=C(C=C1)Cl)C1=CC=NC=C1)Cl | C15H8Cl3N3
reactant | CH3CN | 5 ml | CC#N | C2H3N
reactant | water | 1 ml | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3-ol | 0.70 gm, 48% yield | ClC1=C(C(=C(N=N1)O)C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C15H9Cl2N3O
